US05610303
N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzyl-4-piperidinyliden)acetyl]aniline (Compound II-4 in Table 1)
To a mixed solvent of 40 ml of chloroform and 20 ml of ethanol were added 2.33 g of 4-[(1-benzyl-4-piperidinyliden)acetyl]aniline and 1.63 g of 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine, and further 6 ml of an ethanol solution of hydrochloric acid (containing 0.4 g of hydrochloric acid) was added to the mixture and the mixture was stirred at 50° to 60° C. for 3.5 hours under heating. Then, under ice cooling, a 28% sodium methylate-methanol solution was added to the mixture to make it alkaline, and then the solvent was removed by distillation under reduced pressure and the obtained residue was applied to silica gel column chromatography to obtain 0.3 g of the title compound as yellowish white powder.

reactant | 4-[(1-benzyl-4-piperidinyliden)acetyl]aniline | 2.33 g | C(C1=CC=CC=C1)N1CCC(CC1)=CC(=O)C1=CC=C(N)C=C1 | C20H22N2O
reactant | 4-chloro-5,6-dihydro-7H-cyclopenta[d]pyrimidine | 1.63 g | ClC=1C2=C(N=CN1)CCC2 | C7H7ClN2
reactant | hydrochloric acid | 0.4 g | Cl | ClH
reactant | sodium methylate methanol | C[O-].[Na+].CO
solvent | ethanol | 6 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(5,6-dihydro-7H-cyclopenta[d]pyrimidin-4-yl)-4-[(1-benzyl-4-piperidinyliden)acetyl]aniline | 0.3 g | N1=CN=C(C2=C1CCC2)NC2=CC=C(C=C2)C(C=C2CCN(CC2)CC2=CC=CC=C2)=O | C27H28N4O
